US04340740
A mixture of 3.96 g of m-phenoxybenzaldehyde and 3.97 g of p-toluenesulfonyl chloride was stirred under ice cooling, and 10 ml of an aqueous solution containing 1.47 g of sodium cyanide was added dropwise over 30 minutes. Then, 10 ml of ethanol was added, and the mixture was stirred for 30 minutes under ice cooling, and then at room temperature for 30 minutes. The mixture was extracted with 30 ml of methylene chloride three times. The extract was washed with 20 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Recrystallization of the residue from ethanol afforded 3.816 g of O-(p-toluenesulfonyl)-m-phenoxymandelonitrile. The mother liquor was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel; hexane and benzene) to afford 1.846 g of O-(p-toluenesulfonyl)-m-phenoxymandelonitrile. The total amount of the product was 5.662 g (yield 75%). The product was in the form of colorless crystals.

reactant | m-phenoxybenzaldehyde | 3.96 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | p-toluenesulfonyl chloride | 3.97 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium cyanide | 1.47 g | [C-]#N.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | O-(p-toluenesulfonyl)-m-phenoxymandelonitrile | 3.816 g | C1(=CC=C(C=C1)S(=O)(=O)OC(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1)C | C21H17NO4S
